US07157464B2
Synthesis of 2-(4-Chloro-5-methyl-3-trifluoromethyl-pyrazol-1-yl)-1-[4-(4-chlorophenyl)-piperazin-1-yl]-ethanone
Title compound was prepared following the HATU mediated coupling protocol P, wherein 1-(4-Chlorophenyl)-piperazine and (4-Chloro-5-methyl-3-trifluoromethyl-pyrazol-1-yl)-acetic acid were used as the coupling components, to give the product as a solid: 1H NMR (CDCl3, 400 MHz) 7.22 (d, 2H), 6.83 (d, 2H), 4.99 (s, 2H), 3.77 (m, 2H), 3.72 (m, 2H), 3.19 (m, 2H), 3.16 (m, 2H), 2.28 (s, 3H) ppm; MS (ES) M+Na expected=443.0, found 443.0.

reactant | HATU | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | 1-(4-Chlorophenyl)-piperazine | ClC1=CC=C(C=C1)N1CCNCC1 | C10H13ClN2
reactant | (4-Chloro-5-methyl-3-trifluoromethyl-pyrazol-1-yl)-acetic acid | ClC=1C(=NN(C1C)CC(=O)O)C(F)(F)F | C7H6ClF3N2O2
product | 2-(4-Chloro-5-methyl-3-trifluoromethyl-pyrazol-1-yl)-1-[4-(4-chlorophenyl)-piperazin-1-yl]-ethanone | ClC=1C(=NN(C1C)CC(=O)N1CCN(CC1)C1=CC=C(C=C1)Cl)C(F)(F)F | C17H17Cl2F3N4O
